US07981900B2
(1R)-1-Pyridin-3-ylbutan-1-ol
To a solution of S(−)-α,α-diphenyl-2-pyrrolidinemethanol (500 mg, 2 mmol) and trimethylborate (0.27 ml, 2.4 mmol) in THF (20 mL) was added borane-dimethylsulfide complex (20 mL, 2M in THF, 40 mmol). The mixture was cooled to 0° C. and 1-pyridin-3-ylbutan-1-one was added dropwise over 4 h. The solution was stirred at RT overnight and then treated with 2M HCl (175 mL) and stirring continued for 4 h. The-volatiles were removed under reduced pressure and the resulting cloudy solution basified to pH 11 with aqueous ammonia. The product was extracted into ethyl acetate (3×100 mL) and the combined organic layers washed with brine (100 mL) and dried (Na2SO4). Removal of the solvent under reduced pressure afforded ˜3 g of product.

reactant | trimethylborate | 2.4 mmol, 0.27 ml | COB(OC)OC | C3H9BO3
reactant | borane dimethylsulfide | 40 mmol, 2M, 20 mL | B.CSC
reactant | 1-pyridin-3-ylbutan-1-one | N1=CC(=CC=C1)C(CCC)=O | C9H11NO
reactant | HCl | 2M, 175 mL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (1R)-1-Pyridin-3-ylbutan-1-ol | ˜3 g | N1=CC(=CC=C1)[C@@H](CCC)O | C9H13NO
